US06919356B2
Part A: Preparation of 3-(benzyloxycarbonylaminomethyl)-piperidine-1-carboxylic acid tert-butyl ester
A solution of 3-aminomethylpiperidine-1-carboxylic acid tert-butyl ester (2.20 g, 10.3 mmol) in dichloromethane (40 mL) was treated with triethylamine (1.90 mL, 13.3 mmol) and stirred on an ice bath. A solution of benzyl chloroformate (1.90 mL, 13.3 mmol) in dichloromethane (10 mL) was added over 5 minutes. The mixture was stirred at room temperature for 70 hours. It was washed with 0.1 N aqueous hydrochloric acid, dried over sodium sulfate, and concentrated under vacuum to provide a colorless gum (3.58 g, quantitative) which was used without further purification. 1H NMR (300 MHz, CDCl3) δ7.37 (m, 5H), 5.11 (s, 2H), 3.75 (m, 2H), 3.18 (m, 1H), 3.05 (m, 2H), 2.83 (m, 1H), 1.9-1.6 (m, 4H), 1.46 (s, 9H), 1.27 (m, 1H).

reactant | 3-aminomethylpiperidine-1-carboxylic acid tert-butyl ester | 10.3 mmol, 2.20 g | C(C)(C)(C)OC(=O)N1CC(CCC1)CN | C11H22N2O2
reactant | triethylamine | 13.3 mmol, 1.90 mL | C(C)N(CC)CC | C6H15N
reactant | benzyl chloroformate | 13.3 mmol, 1.90 mL | ClC(=O)OCC1=CC=CC=C1 | C8H7ClO2
solvent | dichloromethane | 40 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 10 mL | ClCCl | CH2Cl2
product | 3-(benzyloxycarbonylaminomethyl)-piperidine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1CC(CCC1)CNC(=O)OCC1=CC=CC=C1 | C19H28N2O4
